US06713508B2
To a 20 ml DMF solution of 4-benzyloxyphenol (3.35 g, 16.7 mmol) and cesium carbonate (6.02 g, 18.5 mmol) was added 2,2,2-trifluoroethyl trifluoromethanesulfonate (4.29 g, 18.4 mmol) upon cooling in an ice-water bath. The cooling bath was removed and the reaction mixture was heated to 50° C. for 1 hr. The reaction mixture was diluted with AcOEt and water. The organic layer was separated, washed with 1N hydrochloric acid, dried over anhydrous Na2SO4, filtered, and concentrated to give benzyl 4-(2,2,2-trifluoroethoxy)phenyl ether 5.0 g (quant.). This material was dissolved in 200 ml of ethanol and was hydrogenated in a Parr shaker with 10% Pd/C 222 mg under hydrogen atmosphere (50 psi) overnight. The catalyst was removed by suction filtration through a pad of celite. The filtrate was concentrated to give the title compound 2.6 g (87%).

reactant | 4-benzyloxyphenol | 16.7 mmol, 3.35 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | cesium carbonate | 18.5 mmol, 6.02 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,2,2-trifluoroethyl trifluoromethanesulfonate | 18.4 mmol, 4.29 g | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | benzyl 4-(2,2,2-trifluoroethoxy)phenyl ether | 5.0 g | FC(COC1=CC=C(C=C1)OCC1=CC=CC=C1)(F)F | C15H13F3O2
